US04803200
β-[[3-(1-Methylethoxy)propyl]amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mole) and 3-isopropoxy-1-propylamine (3.51 g, 0.030 mole) was heated at 140° C. for 5 hrs. After standing at ambient temperature for 18 hrs the mixture was dissolved in acetone (20 ml) and the solution poured into water (120 ml). A solid formed rapidly and was collected by filtration and dried at ambient temperature. The solid (2.80 g, 89%) was recrystallized from toluene-isooctone to yield 2.08 g of a fluffy white solid, m.p. 106°-108° C.

reactant | trans-stilbene oxide | 0.010 mole, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 3-isopropoxy-1-propylamine | 0.030 mole, 3.51 g | C(C)(C)OCCCN | C6H15NO
reactant | water | 120 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | β-[[3-(1-Methylethoxy)propyl]amino]-α-phenylbenzeneethanol | 2.08 g | CC(C)OCCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C20H27NO2
